US07977351B2
5-Fluoro-3-[2-(2-methoxy-vinyl)-7H-furo[3,4-b]pyridin-5-ylidene]-1,3-dihydro-indol-2-one
A solution of 5-fluoro-1,3-dihydro-indol-2-one (176 mg, 1.16 mmol) in THF (5 mL) is treated with a solution of lithium bis(trimethylsilyl)amide (2.3 mL of a 1 M solution in THF, 2.3 mmol) dropwise. The resulting solution is stirred at room temperature for 10 min. A solution of 2-(2-methoxy-vinyl)-7H-furo[3,4-b]pyridin-5-one (111 mg, 0.58 mmol) in THF (2 mL) is added dropwise to the reaction mixture. The resulting solution is stirred for 3 h and is poured into cold 10% aqueous HCl solution (30 mL) at 0° C. The resulting mixture is stirred at 50° C. for 1 h and room temperature overnight. The solid which formed is collected by filtration and dried to give the title compound as a light brown solid (65 mg, 35%).

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 1.16 mmol, 176 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-(2-methoxy-vinyl)-7H-furo[3,4-b]pyridin-5-one | 0.58 mmol, 111 mg | COC=CC1=CC=C2C(=N1)COC2=O | C10H9NO3
reactant | HCl | 30 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-Fluoro-3-[2-(2-methoxy-vinyl)-7H-furo[3,4-b]pyridin-5-ylidene]-1,3-dihydro-indol-2-one | 65 mg, 35% | FC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=NC(=CC=C21)C=COC | C18H13FN2O3
